Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
High blood pressure 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ G2P1 at 30w3d GA with a history of
chronic HTN referred to triage for further evaluation of 
elevated
BP of 150/100s in office. She feels well and has no complaints.
She denies headache/RUQ/epigastric ___ swelling/vision
changes. She has no ctxns/VB/LOF and feels active fetal 
movement.

 
Past Medical History:
PNC: 
___ ___ by LMP c/w early US
O+/Ab neg/RPRNR/RI/HBsAg neg/HIV neg/GBS unk 
- Declined aneuploidy screening 
- Normal FFS
- Issues: cHTN. Booking BP 130/70s, diagnosed at age ___ while on
contraceptive patch. Does not recall antihypertensives she was
prescribed. ? Preeclampsia with prior pregnancy (see below),
following which she was on HCTZ prior to this current pregnancy.
Briefly on PO labetalol at start of this pregnancy, which was
discontinued at 19weeks per MFM recommendations due to normal
BPs. 
- Baseline 24hr protein negative (< 6 on ___ and ___
- baseline HELLP labs notable only for ALT 44 (mild elev), 
repeat
wnl. 
- RUQ US performed for isolated transaminitis which showed
?steatosis 

OB History: Primary C/S at 35-36 weeks in ___ for previa.
Presented with "high blood pressures" and had C/S early. Patient
unsure if she was diagnosed with preeclampsia, does not recall
receiving magnesium. Reports she was on blood pressure
medications for several months postpartum. She was told she was 
a
candidate for a VBAC

GYN Hx: denies hx of abnl pap/STI. Diagnosed with ?endometriosis
within prior C section scar by MRI after she presented with abd
pain. Sxs resolved with Depo. 

PMH: cHTN
PSH: C-section

 
Social History:
Denies T/E/D. Married
 
Physical Exam:
On admission:
98.1, 84, 18, 145/97 -> 150/108 -> 147/97
Gen: NAD, well appearing
Abd: Soft, NT, ND, no fundal TTP.
Extr: NT/NE

 
Pertinent Results:
___ 11:29AM BLOOD WBC-11.7* RBC-3.99* Hgb-12.3 Hct-35.0* 
MCV-88 MCH-30.7 MCHC-35.0 RDW-13.7 Plt ___
___ 11:29AM BLOOD ALT-21
___ 11:29AM BLOOD UricAcd-5.4
___ 06:29PM URINE pH-6 Hours-24 Volume-3600 Creat-24 
TotProt-<6
 
Brief Hospital Course:
Ms. ___ was admitted to the ___ service at 30w3d ___ 
with a diagnosis of chronic hypertension. Given newly elevated 
blood pressures, she was admitted to rule out preeclampsia. Her 
blood pressures were monitored as an inpatient, she never had 
severe range blood pressures and therefore did not require any 
antihypertensives. ___ was consulted. A 24 hour urine collection 
was done and was negative. There was no evidence of severe 
preeclampsia or HELLP. She was discharged home on hospital day 
#2 with the diagnosis of chronic hypertension with a plan for 
outpatient follow up of blood pressures. All fetal testing was 
reassuring. She received a course of betamethasone. 

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted for monitoring of blood pressures 
and for a 24 hour urine collection to assess for preeclampsia. 
The 24 hour urine showed no evidence of protein in your urine. 
Your blood pressure was not elevated to the point where 
medications needed to be started. The team now feels you are 
safe to dischage home. 
 
Followup Instructions:
___